US08497264B2
A vial charged with Pd(PPh3)4 (0.079 g, 0.068 mmol), copper(I) iodide (0.013 g, 0.068 mmol), 18-crown-6 (0.045 g, 0.170 mmol), potassium fluoride (0.118 g, 2.040 mmol), trimethyl((3-methyloxetan-3-yl)ethynyl)silane (0.229 g, 1.360 mmol), and 3-bromo-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.300 g, 0.680 mmol) was treated with 3 mL DMF, sealed under argon, and heated to 110° C. overnight. The reaction mixture was then poured onto water (10 mL) and extracted with EtOAc (3×10 mL). The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. Purification of the crude residue by column chromatography [0-50% (9:1 DCM/MeOH)/DCM] gave (S)-7-(2-fluoropyridin-3-yl)-3-((3-methyloxetan-3-yl)ethynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.079 g, 0.094 mmol, 25.46% yield).

reactant | 18-crown-6 | 0.170 mmol, 0.045 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium fluoride | 2.040 mmol, 0.118 g | [F-].[K+]
reactant | trimethyl((3-methyloxetan-3-yl)ethynyl)silane | 1.360 mmol, 0.229 g | C[Si](C#CC1(COC1)C)(C)C | C9H16OSi
reactant | 3-bromo-7-(2-fluoropyridin-3-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.680 mmol, 0.300 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C21COCC(=N1)N)C=1C(=NC=CC1)F | C20H14BrFN4O2
catalyst | Pd(PPh3)4 | 0.068 mmol, 0.079 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.068 mmol, 0.013 g | [Cu]I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-7-(2-fluoropyridin-3-yl)-3-((3-methyloxetan-3-yl)ethynyl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.094 mmol, 0.079 g, 25.46% yield | FC1=NC=CC=C1C=1C=C2C(=CC1)OC1=NC=C(C=C1[C@]21COCC(=N1)N)C#CC1(COC1)C | C26H21FN4O3
